US07687491B2
(28b) Methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 23 (23g) using {5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol (0.19 g, 0.58 mmol) that was obtained in Example 28 (28a), carbon tetrabromide (0.39 g, 1.2 mmol), triphenylphosphine (0.30 g, 1.2 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.13 mg, 0.87 mmol), and N,N-diisopropylethylamine (0.30 ml, 1.7 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1 to 2:1 or 3:1) as the eluent to afford the title compound (0.15 g) in a yield of 60% as a white crystalline solid.

reactant | {5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol | 0.58 mmol, 0.19 g | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CO)C | C19H21N3O2
reactant | carbon tetrabromide | 1.2 mmol, 0.39 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.2 mmol, 0.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.87 mmol, 0.13 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.30 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)OC)C | C24H28N4O3
